US06525055B1
2-Formyl-4,5-dimethoxy-benzoic acid
A mixture of 5,6-dimethoxy-3H-isobenzofuran-1-one (10 g, 51.5 mmoles), obtained as described in example 1, under N2 in CCl4 (250 ml), N-bromo-succinimide (13.88 g, 77.25 mmoles) and benzoyl peroxide (320 mg, 1.23 mmoles) was kept under reflux for 2 hours, then cooled, filtered and washed with a 10% Na2SO3 solution (200 ml), then with water, anhydrified and brought to dryness. The residue was taken up with 5% HCl (100 ml) and kept under reflux for 4 hours, then the solution was cooled, basified with NaOH, washed with ethyl acetate and slowly re-acidified to give a precipitate which was filtered, washed with water, dried on P2O5 under vacuum to give 6.43 g of the title compound (yield: 60%).

reactant | 5,6-dimethoxy-3H-isobenzofuran-1-one | 51.5 mmoles, 10 g | COC=1C=C2COC(C2=CC1OC)=O | C10H10O4
reactant | N-bromo-succinimide | 77.25 mmoles, 13.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 1.23 mmoles, 320 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Formyl-4,5-dimethoxy-benzoic acid | 6.43 g, yield: 60% | C(=O)C1=C(C(=O)O)C=C(C(=C1)OC)OC | C10H10O5
